US08748442B2
A mixture of 2-(1-(2-fluorobenzyl)-3-(pyridin-2-yl)-1H-pyrazol-5-yl)-6-methoxypyridine (Compound I-25; 85.6 mg) and hydrobromic acid (1.2 ml, 33 wt % in acetic acid) in a sealed flask was heated to 100° C. for 18 h. The mixture was poured into ice and basified with saturated solution of sodium bicarbonate. The mixture was extracted with ethyl acetate. The organic portions were combined, dried (with Na2SO4), filtered, and concentrated under vacuum to give crude oil. The crude oil was purified using SiO2 chromatography using ethyl acetate/methanol as gradient to give 6-(1-(2-fluorobenzyl)-3-(pyridin-2-yl)-1H-pyrazol-5-yl)pyridin-2-ol (Compound I-79, 70%) as off white solid. 1H NMR (400 MHz, CDCl3) δ 11.54 (bs, 1H), 8.67-8.62 (m, 1H), 8.00-7.94 (m, 1H), 7.74 (td, 1H), 7.42-7.36 (m, 1H), 7.28-7.15 (m, 3H), 7.05-6.93 (m, 3H), 6.56 (d, 1H), 6.27 (d, 1H), 5.61 (s, 2H) ppm.

reactant | 2-(1-(2-fluorobenzyl)-3-(pyridin-2-yl)-1H-pyrazol-5-yl)-6-methoxypyridine | 85.6 mg | FC1=C(CN2N=C(C=C2C2=NC(=CC=C2)OC)C2=NC=CC=C2)C=CC=C1 | C21H17FN4O
reactant | hydrobromic acid | 1.2 ml | Br | BrH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 6-(1-(2-fluorobenzyl)-3-(pyridin-2-yl)-1H-pyrazol-5-yl)pyridin-2-ol | 70% | FC1=C(CN2N=C(C=C2C2=CC=CC(=N2)O)C2=NC=CC=C2)C=CC=C1 | C20H15FN4O
